US06770596B1
Preparation of 5-(2-Bromoisobutyrylamino)-6-[4chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4benzoxazine-3(4H)-one.
5-Amino-7-fluoro-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2H-1,4-benzoxazine-3(4H)-one (1.0 g, 2.64 mmol) was dissolved in anhydrous dioxane (40 ml) and 2-bromoisobutyryl bromide (0.67 g, 2.91 mmol) was added. Solution was refluxed for 2 hr and solvent was then evaporated. The residue was triturated with ether to afford the title compound (1.02 g, 1.99 mmol).

reactant | 5-Amino-7-fluoro-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2H-1,4-benzoxazine-3(4H)-one | 2.64 mmol, 1.0 g | NC1=C(C(=CC2=C1NC(CO2)=O)F)C2=NN(C(=C2Cl)C(F)(F)F)C | C13H9ClF4N4O2
reactant | 2-bromoisobutyryl bromide | 2.91 mmol, 0.67 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-(2-Bromoisobutyrylamino)-6-[4chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4benzoxazine-3(4H)-one | 1.99 mmol, 1.02 g | BrC(C(=O)NC1=C(C(=CC2=C1NC(CO2)=O)F)C2=NN(C(=C2Cl)C(F)(F)F)C)(C)C | C17H14BrClF4N4O3
